US07015185B2
594.9 g (5.0 mol) of thionyl chloride were initially introduced together with 1 g of DMF, and 222.2 g (1.0 mol) of sodium cumenesulfonate were slowly added in portions starting at room temperature. The mixture was stirred at reflux for 16 hours and 250 ml of chloroform were added after cooling. Following filtration, excess thionyl chloride was stripped off together with the chloroform under reduced pressure. 250 ml of methanol were added, and a pH of 7.0 was established using 25% strength sodium hydroxide solution at 25° C. The mixture was then stirred out with dichloromethane, the organic phase was concentrated on a rotary evaporator, and the residue obtained was subjected to fractional distillation under reduced pressure. At 102° C. and 0.03 mbar, 96.9 g (0.44 mol) of methyl cumenesulfonate were isolated in the form of a clear liquid, corresponding to a yield of 44%.

reactant | thionyl chloride | 5.0 mol, 594.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium cumenesulfonate | 1.0 mol, 222.2 g | C=1(C(=CC=CC1)S(=O)(=O)[O-])C(C)C.[Na+]
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | 1 g | CN(C)C=O | C3H7NO
product | methyl cumenesulfonate | 0.44 mol, 96.9 g, yield of 44% | C=1(C(=CC=CC1)S(=O)(=O)OC)C(C)C | C10H14O3S
